US07507740B2
(ii) Production of tert-butyl {2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate
A solution of tert-butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethyl]carbamate (712 mg) and 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (830 mg) in isopropyl alcohol (7.1 mL) was stirred at 80° C. for 12 hrs. Aqueous sodium hydrogen carbonate was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=1:1→ethyl acetate) to give the title compound (1.12 g) as colorless crystals.

reactant | tert-butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethyl]carbamate | 712 mg | C(C)(C)(C)OC(NCCN1C=CC=2N=CN=C(C21)Cl)=O | C13H17ClN4O2
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 830 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | isopropyl alcohol | 7.1 mL | C(C)(C)O | C3H8O
product | tert-butyl {2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate | 1.12 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C26H25ClF3N5O3
